US07531532B2
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide
4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide (117 mg) was dissolved in tetrahydrofuran (3 ml)-methanol (3 ml), and then 10% palladium carbon (61 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring overnight. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with ethanol. The filtrate was concentrated under a reduced pressure to give a residue, which was then suspended in diethyl ether (2 ml)-hexane (2 ml). The solid was filtered and dried under aeration to provide the titled compound (59.5 mg, 54.7%).

reactant | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-nitrophenoxy)pyridin-2-yl]amide | 117 mg | [N+](=O)([O-])C1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1 | C21H25N5O4
reactant | hydrogen | [H][H] | H2
reactant | hexane | 2 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | methanol | 3 ml | CO | CH4O
solvent | diethyl ether | 2 ml | C(C)OCC | C4H10O
catalyst | palladium carbon | 61 mg | [C].[Pd]
product | 4-(Pyrrolidin-1-yl)piperidine-1-carboxylic acid [4-(4-aminophenoxy)pyridin-2-yl]amide | 59.5 mg, 54.7% | NC1=CC=C(OC2=CC(=NC=C2)NC(=O)N2CCC(CC2)N2CCCC2)C=C1 | C21H27N5O2
